* NGSPICE file created from zlc_16bit.ext - technology: sky130A

.subckt sky130_fd_sc_hd__nor4_1 A B C D VGND VNB VPB VPWR Y
X0 Y B VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.08937 ps=0.925 w=0.65 l=0.15
X1 a_191_297# C a_109_297# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.19 pd=1.38 as=0.13 ps=1.26 w=1 l=0.15
X2 VPWR A a_297_297# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.135 ps=1.27 w=1 l=0.15
X3 VGND C Y VNB sky130_fd_pr__nfet_01v8 ad=0.08937 pd=0.925 as=0.11863 ps=1.015 w=0.65 l=0.15
X4 VGND A Y VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.08775 ps=0.92 w=0.65 l=0.15
X5 a_297_297# B a_191_297# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.19 ps=1.38 w=1 l=0.15
X6 a_109_297# D Y VPB sky130_fd_pr__pfet_01v8_hvt ad=0.13 pd=1.26 as=0.26 ps=2.52 w=1 l=0.15
X7 Y D VGND VNB sky130_fd_pr__nfet_01v8 ad=0.11863 pd=1.015 as=0.169 ps=1.82 w=0.65 l=0.15
.ends

.subckt sky130_fd_sc_hd__or2_1 A B VGND VNB VPB VPWR X
X0 VGND A a_68_297# VNB sky130_fd_pr__nfet_01v8 ad=0.10025 pd=0.985 as=0.0567 ps=0.69 w=0.42 l=0.15
X1 a_68_297# B VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0567 pd=0.69 as=0.1092 ps=1.36 w=0.42 l=0.15
X2 X a_68_297# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.10025 ps=0.985 w=0.65 l=0.15
X3 VPWR A a_150_297# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14575 pd=1.335 as=0.0441 ps=0.63 w=0.42 l=0.15
X4 X a_68_297# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.34 pd=2.68 as=0.14575 ps=1.335 w=1 l=0.15
X5 a_150_297# B a_68_297# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0441 pd=0.63 as=0.1092 ps=1.36 w=0.42 l=0.15
.ends

.subckt sky130_fd_sc_hd__nor2_1 A B VGND VNB VPB VPWR Y
X0 VPWR A a_109_297# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.105 ps=1.21 w=1 l=0.15
X1 VGND A Y VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.08775 ps=0.92 w=0.65 l=0.15
X2 a_109_297# B Y VPB sky130_fd_pr__pfet_01v8_hvt ad=0.105 pd=1.21 as=0.26 ps=2.52 w=1 l=0.15
X3 Y B VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.169 ps=1.82 w=0.65 l=0.15
.ends

.subckt sky130_fd_sc_hd__and2_1 A B VGND VNB VPB VPWR X
X0 VPWR B a_59_75# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.16655 pd=1.39 as=0.0567 ps=0.69 w=0.42 l=0.15
X1 X a_59_75# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.475 pd=2.95 as=0.16655 ps=1.39 w=1 l=0.15
X2 VGND B a_145_75# VNB sky130_fd_pr__nfet_01v8 ad=0.1118 pd=1.04 as=0.0567 ps=0.69 w=0.42 l=0.15
X3 a_59_75# A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0567 pd=0.69 as=0.1176 ps=1.4 w=0.42 l=0.15
X4 X a_59_75# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.182 pd=1.86 as=0.1118 ps=1.04 w=0.65 l=0.15
X5 a_145_75# A a_59_75# VNB sky130_fd_pr__nfet_01v8 ad=0.0567 pd=0.69 as=0.1176 ps=1.4 w=0.42 l=0.15
.ends

.subckt sky130_fd_sc_hd__inv_1 A VGND VNB VPB VPWR Y
X0 Y A VGND VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.169 ps=1.82 w=0.65 l=0.15
X1 Y A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.26 ps=2.52 w=1 l=0.15
.ends

.subckt zlc_4bit A[3] A[0] A[1] A[2] Z[0] Z[2] Z[1] VDD GND
Xx1 A[3] A[2] A[1] A[0] GND GND VDD VDD Z[2] sky130_fd_sc_hd__nor4_1
Xx3 A[1] A[0] GND GND VDD VDD x4/B sky130_fd_sc_hd__or2_1
Xx2 A[3] A[2] GND GND VDD VDD x4/A sky130_fd_sc_hd__nor2_1
Xx4 x4/A x4/B GND GND VDD VDD Z[1] sky130_fd_sc_hd__and2_1
Xx5 A[3] GND GND VDD VDD x9/A sky130_fd_sc_hd__inv_1
Xx6 A[1] GND GND VDD VDD x7/A sky130_fd_sc_hd__inv_1
Xx7 x7/A A[0] GND GND VDD VDD x8/A sky130_fd_sc_hd__and2_1
Xx8 x8/A A[2] GND GND VDD VDD x9/B sky130_fd_sc_hd__or2_1
Xx9 x9/A x9/B GND GND VDD VDD Z[0] sky130_fd_sc_hd__and2_1
.ends

.subckt sky130_fd_sc_hd__and4_1 A B C D VGND VNB VPB VPWR X
X0 a_27_47# C VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0588 pd=0.7 as=0.0777 ps=0.79 w=0.42 l=0.15
X1 a_197_47# B a_109_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0798 pd=0.8 as=0.0609 ps=0.71 w=0.42 l=0.15
X2 X a_27_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.31245 ps=1.68 w=1 l=0.15
X3 a_303_47# C a_197_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0693 pd=0.75 as=0.0798 ps=0.8 w=0.42 l=0.15
X4 a_27_47# A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0735 pd=0.77 as=0.1092 ps=1.36 w=0.42 l=0.15
X5 VPWR D a_27_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.31245 pd=1.68 as=0.0588 ps=0.7 w=0.42 l=0.15
X6 VGND D a_303_47# VNB sky130_fd_pr__nfet_01v8 ad=0.19627 pd=1.33 as=0.0693 ps=0.75 w=0.42 l=0.15
X7 VPWR B a_27_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0777 pd=0.79 as=0.0735 ps=0.77 w=0.42 l=0.15
X8 X a_27_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.19627 ps=1.33 w=0.65 l=0.15
X9 a_109_47# A a_27_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0609 pd=0.71 as=0.1092 ps=1.36 w=0.42 l=0.15
.ends

.subckt sky130_fd_sc_hd__nand2_1 A B VGND VNB VPB VPWR Y
X0 VPWR A Y VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.135 ps=1.27 w=1 l=0.15
X1 Y A a_113_47# VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.08775 ps=0.92 w=0.65 l=0.15
X2 a_113_47# B VGND VNB sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.169 ps=1.82 w=0.65 l=0.15
X3 Y B VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.26 ps=2.52 w=1 l=0.15
.ends

.subckt sky130_fd_sc_hd__and3_1 A B C VGND VNB VPB VPWR X
X0 VPWR A a_27_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0567 pd=0.69 as=0.1092 ps=1.36 w=0.42 l=0.15
X1 VPWR C a_27_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14222 pd=1.335 as=0.06615 ps=0.735 w=0.42 l=0.15
X2 a_181_47# B a_109_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0441 pd=0.63 as=0.0441 ps=0.63 w=0.42 l=0.15
X3 VGND C a_181_47# VNB sky130_fd_pr__nfet_01v8 ad=0.13165 pd=1.14 as=0.0441 ps=0.63 w=0.42 l=0.15
X4 a_27_47# B VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.06615 pd=0.735 as=0.0567 ps=0.69 w=0.42 l=0.15
X5 X a_27_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.14222 ps=1.335 w=1 l=0.15
X6 X a_27_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.13165 ps=1.14 w=0.65 l=0.15
X7 a_109_47# A a_27_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0441 pd=0.63 as=0.1092 ps=1.36 w=0.42 l=0.15
.ends

.subckt sky130_fd_sc_hd__mux2_1 A0 A1 S VGND VNB VPB VPWR X
X0 VPWR a_505_21# a_535_374# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0693 pd=0.75 as=0.0441 ps=0.63 w=0.42 l=0.15
X1 a_505_21# S VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.1176 pd=1.4 as=0.0693 ps=0.75 w=0.42 l=0.15
X2 a_218_374# S VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.07665 pd=0.785 as=0.15835 ps=1.395 w=0.42 l=0.15
X3 VGND a_505_21# a_439_47# VNB sky130_fd_pr__nfet_01v8 ad=0.1449 pd=1.11 as=0.0693 ps=0.75 w=0.42 l=0.15
X4 a_76_199# A0 a_218_374# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.1932 pd=1.34 as=0.07665 ps=0.785 w=0.42 l=0.15
X5 a_505_21# S VGND VNB sky130_fd_pr__nfet_01v8 ad=0.1092 pd=1.36 as=0.1449 ps=1.11 w=0.42 l=0.15
X6 a_439_47# A0 a_76_199# VNB sky130_fd_pr__nfet_01v8 ad=0.0693 pd=0.75 as=0.09975 ps=0.895 w=0.42 l=0.15
X7 a_535_374# A1 a_76_199# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0441 pd=0.63 as=0.1932 ps=1.34 w=0.42 l=0.15
X8 a_76_199# A1 a_218_47# VNB sky130_fd_pr__nfet_01v8 ad=0.09975 pd=0.895 as=0.0693 ps=0.75 w=0.42 l=0.15
X9 a_218_47# S VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0693 pd=0.75 as=0.11285 ps=1.045 w=0.42 l=0.15
X10 VPWR a_76_199# X VPB sky130_fd_pr__pfet_01v8_hvt ad=0.15835 pd=1.395 as=0.26 ps=2.52 w=1 l=0.15
X11 VGND a_76_199# X VNB sky130_fd_pr__nfet_01v8 ad=0.11285 pd=1.045 as=0.169 ps=1.82 w=0.65 l=0.15
.ends

.subckt zlc_16bit Y[2] Y[0] A[15] A[12] A[13] A[14] VDD GND Y[3] Y[1] A[2] A[1] A[0]
+ A[3] A[11] A[8] A[9] A[10] A[6] A[5] A[4] A[7] Y[4]
Xx1 A[15] A[12] A[13] A[14] x16/A0 Z3[2] x13/A0 VDD GND zlc_4bit
Xx2 A[11] A[8] A[9] A[10] x16/A1 Z2[2] x13/A1 VDD GND zlc_4bit
Xx3 A[7] A[4] A[5] A[6] Z1[0] Z1[2] x14/A0 VDD GND zlc_4bit
Xx4 A[3] A[0] A[1] A[2] Z0[0] Z0[2] x14/A1 VDD GND zlc_4bit
Xx5 Z3[2] Z2[2] Z1[2] Z0[2] GND GND VDD VDD Y[4] sky130_fd_sc_hd__and4_1
Xx6 Z1[2] Z0[2] GND GND VDD VDD x7/C sky130_fd_sc_hd__nand2_1
Xx7 Z3[2] Z2[2] x7/C GND GND VDD VDD Y[3] sky130_fd_sc_hd__and3_1
Xx8 Z2[2] GND GND VDD VDD x8/Y sky130_fd_sc_hd__inv_1
Xx9 Z0[2] GND GND VDD VDD x9/Y sky130_fd_sc_hd__inv_1
Xx10 Z3[2] x11/X GND GND VDD VDD Y[2] sky130_fd_sc_hd__and2_1
Xx11 x8/Y x12/X GND GND VDD VDD x11/X sky130_fd_sc_hd__or2_1
Xx12 Z1[2] x9/Y GND GND VDD VDD x12/X sky130_fd_sc_hd__and2_1
Xx13 x13/A0 x13/A1 Y[2] GND GND VDD VDD x13/X sky130_fd_sc_hd__mux2_1
Xx15 x13/X x14/X Y[3] GND GND VDD VDD Y[1] sky130_fd_sc_hd__mux2_1
Xx14 x14/A0 x14/A1 Y[2] GND GND VDD VDD x14/X sky130_fd_sc_hd__mux2_1
Xx16 x16/A0 x16/A1 Y[2] GND GND VDD VDD x16/X sky130_fd_sc_hd__mux2_1
Xx17 Z1[0] Z0[0] Y[2] GND GND VDD VDD x17/X sky130_fd_sc_hd__mux2_1
Xx18 x16/X x17/X Y[3] GND GND VDD VDD Y[0] sky130_fd_sc_hd__mux2_1
.ends

